US06943183B2
2-{[(2-{[(1S)-2-(1H-Imidazol-1-yl)-1-phenylethyl]oxy}-5-oxo-5,6,7,8-tetrahydro-1-naphthalenyl)methyl]sulfonyl}benzoic Acid (Compound 159)
A mixture of methyl 2-{[(2-{[(1S)-2-(1H-imidazol-1-yl)-1-phenylethyl]oxy}-5-oxo-5,6,7,8-tetrahydro-1-naphthalenyl)methyl]sulfonyl}benzoate (2.47 g, 4.54 mmol), 2N lithium hydroxide (9.1 ml), p-dioxane (45 ml) and water (27 ml) was stirred at room temperature for 2 h. Water (200 ml) was added and acidified with conc HCl to pH 3 at 0° C. Aqueous NaCl (50 ml) was added and further stirred at 0° C. for 1H. The precipitate was filtered, washed with water, and dried, to give a beige solid, 1.88 g, 78% yield; mp 230° C. (from dichloromethane-MeOH). NMR spectrum was consistent with structure. Calcd. For C29H26N2O6S.H2O:

reactant | methyl 2-{[(2-{[(1S)-2-(1H-imidazol-1-yl)-1-phenylethyl]oxy}-5-oxo-5,6,7,8-tetrahydro-1-naphthalenyl)methyl]sulfonyl}benzoate | 4.54 mmol, 2.47 g | N1(C=NC=C1)C[C@H](C1=CC=CC=C1)OC1=C(C=2CCCC(C2C=C1)=O)CS(=O)(=O)C1=C(C(=O)OC)C=CC=C1 | C30H28N2O6S
reactant | lithium hydroxide | 2N, 9.1 ml | [OH-].[Li+]
reactant | HCl | Cl | ClH
reactant | NaCl | 50 ml | [Na+].[Cl-]
solvent | dichloromethane MeOH | ClCCl.CO
solvent | Water | 200 ml | O | H2O
solvent | water | 27 ml | O | H2O
solvent | p-dioxane | 45 ml | O1CCOCC1 | C4H8O2
product | 2-{[(2-{[(1S)-2-(1H-Imidazol-1-yl)-1-phenylethyl]oxy}-5-oxo-5,6,7,8-tetrahydro-1-naphthalenyl)methyl]sulfonyl}benzoic Acid | 78% yield | N1(C=NC=C1)C[C@H](C1=CC=CC=C1)OC1=C(C=2CCCC(C2C=C1)=O)CS(=O)(=O)C1=C(C(=O)O)C=CC=C1 | C29H26N2O6S
